data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(F)cc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)cc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(F)cc1Cl)C2(C)C", "products": "C[C+]1C2(c3ccc(F)cc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(F)cc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(F)cc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)cc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)cc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(F)cc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(F)cc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(F)cc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(F)cc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(F)cc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1cc(F)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1OC", "products": "COc1cc(F)ccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Cl)c(Cl)c1)C1C2CCC1C2", "products": "[O][C](c1ccc(Cl)c(Cl)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Cl)c(Cl)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)c(Cl)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)c(Cl)c1", "products": "OC(=CC1C=CCC1)c1ccc(Cl)c(Cl)c1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Cl)c(Cl)c1", "products": "O=C(CC1C=CCC1)c1ccc(Cl)c(Cl)c1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)c(F)c1", "products": "COc1ccc([C]([O])C2C3CCC2C3)c(F)c1"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)c(F)c1", "products": "COc1ccc(C([O])=CC2C[CH]CC2)c(F)c1"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)c(F)c1", "products": "COc1ccc(C(O)=CC2C=CCC2)c(F)c1"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)c(F)c1", "products": "COc1ccc(C(=O)CC2C=CCC2)c(F)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CCl)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)CCl)c4Cl)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)CF)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)CF)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CF)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3COC(C(C)C)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C(C)C)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C(C)C)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C(C)C)OCC2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C(C)C)OCC2O3)cc1", "products": "CC(C)C12OCC(O1)C1C(=O)C12"}, {"reactants": "CC(C)C12OCC(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3COC(C(C)C)(O3)C21"}, {"reactants": "COC1([O-])C2C3COC(C(C)C)(O3)C21.CO", "products": "COC(=O)C1CC2COC1(C(C)C)O2"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(Cl)C(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Cl)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Cl)C2O3)cc1", "products": "O=C1C2C3OC(Cl)C(O3)C12"}, {"reactants": "O=C1C2C3OC(Cl)C(O3)C12.[O-]C", "products": "COC1([O-])C2C3OC(Cl)C(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(Cl)C(O3)C21.CO", "products": "COC(=O)C1CC2OC1OC2Cl"}]}
